US06440995B1
(RS)-3-[2-(4-Trifluoromethyl-phenyl)-quinolin-4-ylamino]-propane-1,2-diol hydrochloride
The title compound, m.p. 243-247° C., and MS: m/e=362 (M+), was prepared from 4-chloro-2-(4-trifluoromethyl-phenyl)-quinoline and (RS)-3-amino-1,2-propandiol.

reactant | 4-chloro-2-(4-trifluoromethyl-phenyl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)C(F)(F)F | C16H9ClF3N
reactant | (RS)-3-amino-1,2-propandiol | NCC(CO)O | C3H9NO2
product | (RS)-3-[2-(4-Trifluoromethyl-phenyl)-quinolin-4-ylamino]-propane-1,2-diol hydrochloride | Cl.FC(C1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)NCC(CO)O)(F)F | InChI=1S/C19H17F3N2O2.ClH/c20-19(21,22)13-7-5-12(6-8-13)17-9-18(23-10-14(26)11-25)15-3-1-2-4-16(15)24-17;/h1-9,14,25-26H,10-11H2,(H,23,24);1H
